US08859782B2
3-[3-(4-chlorophenyl)-6-methylphenyl]-5,5-dimethylpyrrolidine-2,4-dione
Under argon, in a heat-dried apparatus, 7.4 mg of Pd(OAc)2, 22 mg of di-tert-butyl(2′-methylbiphenyl-2-yl)phosphine and 0.78 g of K3PO4 in 4.8 ml of air-free dioxane are introduced as initial charge. 203 mg of 5,5-dimethylpyrrolidine-2,4-dione and 659 mg of 3-(4-chlorophenyl)-6-methylbromobenzene are added and the mixture is stirred for 16 hours under reflux. The mixture is then left to cool to room temperature, diluted with ca. 6 ml of methanol and filtered, and the filter residue is after-washed with ca. 3 ml of MeOH. The combined filtrates are concentrated by evaporation on a rotary evaporator. The residue is taken up in ca. 6 ml of water and rendered weakly acidic using 1 N hydrochloric acid. The precipitated solid is filtered off with suction and washed with ca. 3 ml of water. It is then washed from the filter with acetone and the filtrate is concentrated by evaporation. This gives 0.597 g of solid. Reversed-phase separation with water/acetonitrile (gradient) gives 93 mg (14% of theory) with a purity of 98.6% according to HPLC/MS.

reactant | di-tert-butyl(2′-methylbiphenyl-2-yl)phosphine | 22 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=CC=C1)C)C(C)(C)C | C21H29P
reactant | K3PO4 | 0.78 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 5,5-dimethylpyrrolidine-2,4-dione | 203 mg | CC1(C(CC(N1)=O)=O)C | C6H9NO2
reactant | 3-(4-chlorophenyl)-6-methylbromobenzene | 659 mg | ClC1=CC=C(C=C1)C=1C=C(C(=CC1)C)Br | C13H10BrCl
solvent | dioxane | 4.8 ml | O1CCOCC1 | C4H8O2
solvent | methanol | ca. 6 ml | CO | CH4O
catalyst | Pd(OAc)2 | 7.4 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-[3-(4-chlorophenyl)-6-methylphenyl]-5,5-dimethylpyrrolidine-2,4-dione | ClC1=CC=C(C=C1)C=1C=C(C(=CC1)C)C1C(NC(C1=O)(C)C)=O | C19H18ClNO2
